US06218424B1
A solution of methyl 2-oxo-2-(2-pent-4-enoylpyrrolidinyl)acetate (21.0 g; 88 mmol) in 150 ml THF was cooled to −78° C., under nitrogen, and treated with 200 ml (180 mmol) of 0.9 M 3,3-dimethylpropyl magnesium chloride. After stirring for 2.5 hours, TLC indicated that the reaction was complete. It was quenched with 300 ml of saturated NH4Cl followed by 200 ml of ethyl acetate. The layers were separated and the aqueous layer was extracted once more with 300 ml of ethyl acetate. The combined organic layers were dried over MgSO4, filtered, concentrated, and the product purified on silica gel with 20% ethyl acetate in hexane, to obtain 3,3-dimethyl-1-(2-pent-4-enoylpyrrolidinyl)pentane-1,2-dione as a light yellow oil, 21.0 g (85%).

reactant | methyl 2-oxo-2-(2-pent-4-enoylpyrrolidinyl)acetate | 88 mmol, 21.0 g | O=C(C(=O)OC)N1C(CCC1)C(CCC=C)=O | C12H17NO4
reactant | 3,3-dimethylpropyl magnesium chloride | 180 mmol, 0.9 M, 200 ml | CC(CC[Mg]Cl)C
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1-(2-pent-4-enoylpyrrolidinyl)pentane-1,2-dione | CC(C(C(=O)N1C(CCC1)C(CCC=C)=O)=O)(CC)C | C16H25NO3
